US08703758B2
J) 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-amine
A solution of 2-[trans-4-(2-azidopropoxy)cyclohexyl]-6-(cyclopropylmethoxy)-1,3-benzoxazole (249 mg) and triphenylphosphine (353 mg) in THF (4 mL)/water (2 mL) was stirred at 60° C. overnight. The reaction mixture was allowed to cool to room temperature, and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (ethyl acetate/methanol) to give the title compound (172 mg).

reactant | 2-[trans-4-(2-azidopropoxy)cyclohexyl]-6-(cyclopropylmethoxy)-1,3-benzoxazole | 249 mg | N(=[N+]=[N-])C(CO[C@@H]1CC[C@H](CC1)C=1OC2=C(N1)C=CC(=C2)OCC2CC2)C | C20H26N4O3
reactant | triphenylphosphine | 353 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 2 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-amine | 172 mg | C1(CC1)COC1=CC2=C(N=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)N)C=C1 | C20H28N2O3
